US06933290B2
(S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4-dimethoxy-phenyl)-propionylamino]-4-methyl-pentanoic acid [(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-amide
The title compound is prepared as described in example 1 but using {(S)-3-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-butyl}-carbamic acid tert-butyl ester and (S)-2-(Biphenyl-3-ylamino)-3-(3,4-dimethoxy-phenyl)-propionic acid.

reactant | {(S)-3-Methyl-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)=O | C26H47BN2O5
reactant | (S)-2-(Biphenyl-3-ylamino)-3-(3,4-dimethoxy-phenyl)-propionic acid | C1(=CC(=CC=C1)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C23H23NO4
product | (S)-2-[(S)-2-(Biphenyl-3-ylamino)-3-(3,4-dimethoxy-phenyl)-propionylamino]-4-methyl-pentanoic acid [(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butyl]-amide | CC(C[C@@H](B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)NC([C@H](CC(C)C)NC([C@H](CC3=CC(=C(C=C3)OC)OC)NC=3C=C(C=CC3)C3=CC=CC=C3)=O)=O)C | C44H60BN3O6
